US06355661B1
Synthesis of Ethyl 2-(2,5-dihydroxyphenyl)-1,3-thiazolidine-4-carboxylate (7)
To a round bottom flask, equipped with magnetic stirrer, containing 9.25 g (50 mM) ethyl ester of L-cysteine hydrochloride in 75 mL of absolute ethanol was added 8.4 mL (48 mM) ethyldulsopropylamine. A clear solution was obtained after stirring for several minutes with a magnetic stirrer under nitrogen. To this solution was added 6.65 g (49 mM) 2,5-dihydroxybenzaldehyde in 50 mL absolute ethanol, and the reaction mixture was stirred for another 4 hrs. Evaporation to dryness produced a viscous oil, which was dissolved in 20 mL absolute ethanol and loaded on a silica gel column. Elution with ethylacetate/hexane (at molar ratios from 2:8 to 3.5:6.5) produced 5.9 g of the desired product. 1H NMR (DMSO-d6; 1:1 diastereoisomeric mixture at C2)δ; 1.21-1.25 m 3H; 2.95-3.02 m and 3.19-3.22 m, 2H; (3.5 m, 3.76 m 3.90 m and 4.25 m, 2H); 4.15 m, 2H; (5.56 d, J=11.9 Hz and 5.75 d, J=9.9 Hz, 1H); (6.45-6.48 dd, J=2.9 Hz, 8.7 Hz, 6.52-6.55 dd, J=2.9 Hz, 8.7 Hz, 6.57 d, J=8.8 Hz, 6.61 d, J=8.8 Hz 2H); 6.76 dd, J=2.8 Hz, 9.2 Hz, 1H; 8.64 s and 8.75 s, 1H; 9.01 s and 9.19 s 1H.

reactant | L-cysteine hydrochloride | Cl.N[C@@H](CS)C(=O)O
reactant | 2,5-dihydroxybenzaldehyde | 49 mM, 6.65 g | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | ethanol | 75 mL | C(C)O | C2H6O
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 2-(2,5-dihydroxyphenyl)-1,3-thiazolidine-4-carboxylate | 5.9 g | OC1=C(C=C(C=C1)O)C1SCC(N1)C(=O)OCC | C12H15NO4S
